data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_55705_0,[C:1]([N:4]([C:2]([H:11])([H:12])[H:13])/[C:5](=[N:6]/[C:3]([H:14])([H:15])[H:16])[H:7])([H:8])([H:9])[H:10]>>[C:1](/[N:4]=[C:5](\[N:6]([C:2]([H:11])([H:12])[H:13])[C:3]([H:14])([H:15])[H:16])[H:7])([H:8])([H:9])[H:10],72.71909249999155
MR_422360_1,[C:1]([C:5](/[C:4](=[C:7](/[O:9][H:11])[H:12])[O:8][H:10])=[C:6]([C:2]([H:17])([H:18])[H:19])[C:3]([H:16])([H:20])[H:21])([H:13])([H:14])[H:15]>>[C:1]([C:5]1=[C:4]([O:8][H:10])[C:7]([O:9][H:11])([H:12])[C:6]1([C:2]([H:17])([H:18])[H:19])[C:3]([H:16])([H:20])[H:21])([H:13])([H:14])[H:15],29.20196750000045
MR_684169_0,[C:1]([C:2](=[C:5]([H:12])[H:13])[O:6][N:3]([H:8])[H:9])([N:4]([H:10])[H:11])=[O:7]>>[C:1]([C:2]([C:5]([N:3]([H:8])[H:9])([H:12])[H:13])=[O:6])([N:4]([H:10])[H:11])=[O:7],50.64175999998042
MR_568070_2,[C:1]([C:3]([H:18])([H:19])[H:20])(/[C:5](=[N:4]\[C:2]([H:15])([H:16])[H:17])[O:9][C:6]([N:7]([H:13])[H:14])=[O:10])([O:8][H:11])[H:12]>>[C:1]([C:3]([H:18])([H:19])[H:20])([C:5]([N:4]([C:2]([H:15])([H:16])[H:17])[C:6]([N:7]([H:13])[H:14])=[O:10])=[O:9])([O:8][H:11])[H:12],27.0370924999375
MR_118219_1,[C:1]([C:2]([C:3](=[O:6])[H:9])([H:10])[H:11])([N:4]=[O:5])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[C:3]1([O:6][N:4]=[O:5])[H:9],52.19921500000751
MR_386610_1,[C:1]([N:3]([C:4]1([N:2]([N:6]([H:11])[H:12])[H:9])[C:5](=[C:7]([H:16])[H:17])[O:8]1)[H:10])([H:13])([H:14])[H:15]>>[C:1]([N:3]([C:4]([C:5]([N:2]([N:6]([H:11])[H:12])[H:9])=[C:7]([H:16])[H:17])=[O:8])[H:10])([H:13])([H:14])[H:15],57.31208499997536
MR_328680_1,[N:1](=[C:2](\[O:6][H:9])[O:8]/[C:3]([N:5]([H:12])[H:13])=[N:7]\[H:14])\[N:4]([H:10])[H:11]>>[N:1]([C:2]([O:6][H:9])=[O:8])(/[C:3]([N:5]([H:12])[H:13])=[N:7]\[H:14])[N:4]([H:10])[H:11],25.47963750001741
MR_70938_0,[C:1]([C:3]([N:2]([O:5][H:6])[H:7])=[C:4]([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:3]1([C:4]([H:6])([H:11])[H:12])[N:2]([H:7])[O:5]1)([H:8])([H:9])[H:10],64.93307250001344
MR_679590_0,[N:1](/[C:4](=[C:3](/[O:7][H:8])[H:12])[H:13])(/[C:5](=[C:6](\[N:2]([H:10])[H:11])[H:15])[H:14])[H:9]>>[N:1]1([H:9])[C:4]([C:3]([O:7][H:8])([H:11])[H:12])([H:13])[C:5]1(/[C:6](=[N:2]/[H:10])[H:15])[H:14],45.98571000003631
MR_522099_2,[C:1](/[C:2](=[N:4]/[H:11])[H:8])([O:5][H:12])([O:6][N:3]([H:9])[H:10])[H:7]>>[C:1]1([O:6][N:3]([H:9])[H:10])([H:7])[C:2]([N:4]([H:11])[H:12])([H:8])[O:5]1,35.10360500000999
MR_137324_0,[N:1](/[C:3](=[C:2](\[O:4][H:5])[H:8])[H:9])([H:6])[H:7]>>[N:1]([C:3]1([H:9])[C:2]([H:5])([H:8])[O:4]1)([H:6])[H:7],55.838087500005074
MR_663383_2,[C:1]1([C:2]2([H:12])[C:4]([C:7]([H:21])([H:22])[H:23])([H:14])[N:9]2[H:11])([C:5]([H:15])([H:16])[H:17])[C:3]([C:6]([H:18])([H:19])[H:20])([H:13])[N:8]1[H:10]>>[C:1]1(/[C:2]([C:4]([C:7]([H:21])([H:22])[H:23])([H:12])[H:14])=[N:9]/[H:11])([C:5]([H:15])([H:16])[H:17])[C:3]([C:6]([H:18])([H:19])[H:20])([H:13])[N:8]1[H:10],69.64810750000481
MR_458339_0,[C:1]([C:2](/[N:9]=[C:6](/[C:5]([H:20])([H:21])[H:22])[O:8][H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[O:7][H:10]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:2]([H:12])([H:13])[N:9]1[C:6]([C:5]([H:20])([H:21])[H:22])([O:7][H:10])[O:8][H:11],72.85588750000286
MR_6461_0,[C:1]1([C:4]([H:16])([H:17])[H:18])([H:8])[C:6]([N:5]([C:2]([H:10])([H:11])[H:14])[C:3]([H:12])([H:13])[H:15])([H:9])[O:7]1>>[C:1]([C:4]([H:16])([H:17])[H:18])([C:6]([N:5]([C:2]([H:10])([H:11])[H:14])[C:3]([H:12])([H:13])[H:15])=[O:7])([H:8])[H:9],57.53108249995748
MR_306162_0,[C:1]([C:2]1=[N:6][C:4]([H:9])=[C:5]([H:10])/[C:3]1=[N:7]\[H:8])([H:11])([H:12])[H:13]>>[C:1]([C:2]12/[C:3](=[N:7]/[H:8])[C:5]1([H:10])[C:4]([H:9])=[N:6]2)([H:11])([H:12])[H:13],63.06061250001477
MR_19225_2,[C:1](=[C:2](\[C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])(\[O:5][H:6])[H:7]>>[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:6])[H:8])(=[O:5])[H:7],68.03982499999904
MR_279908_0,[C:1]([C:2]([O:6][H:8])([H:14])[H:15])([C:3]([N:4]([H:10])[H:11])=[O:7])([N:5]([H:12])[H:13])[H:9]>>[C:1]([C:3]([C:2]([O:6][H:8])([H:14])[H:15])=[O:7])([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[H:9],66.46982000000364
MR_674823_1,[C:1]([N:2]([C:3]12[C:4]([H:10])([C:5]([H:11])=[N:8]1)[O:6]2)[O:7][H:9])([H:12])([H:13])[H:14]>>[C:1]([N:2]([c:3]1[o:6][c:4]([H:10])[c:5]([H:11])[n:8]1)[O:7][H:9])([H:12])([H:13])[H:14],11.675265000021255
MR_336315_1,[C@:1]([C:4]([H:18])([H:19])[H:20])([N:8]([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])([C:9]([C:5]([H:21])([H:22])[H:23])=[C:10]([C:6]([H:24])([H:25])[H:26])[C:7]([H:27])([H:28])[H:29])[H:11]>>[C:1](\[C:4]([H:18])([H:19])[H:20])(=[C:9](\[C:5]([H:21])([H:22])[H:23])[C:10]([C:6]([H:24])([H:25])[H:26])([C:7]([H:27])([H:28])[H:29])[N:8]([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])[H:11],63.91777750002646
MR_611957_1,[C:1]([O:4][H:8])(=[O:5])/[N:6]=[N:7]\[C:3](=[C:2]([H:9])[H:10])[H:11]>>[C:1]1([O:4][H:8])([O:5][H:9])[C:2]([H:10])=[C:3]([H:11])[N:7]=[N:6]1,70.93573749999976
